US06204249B1
2-Bromo-5,6-dichloro-1-(2,3,5-tri-O-acetyl-beta-L-ribofuranosyl)-1H-benzimidazole from bromination reaction
5,6Dichloro-1-(2,3,5-tri-O-acetyl-beta-L-ribofuranosyl)-1H-benzimidazole (1.0 g, 2-25 mmol) was combined with N-bromosuccinimide (0.88 g, 4.94 mmol) in anhydrous 1,4-dioxane (50 mL). This solution was heated in an 80° C. oil bath for 15 min. The solution was cooled, diluted with ethyl acetate and extracted with 10% sodium bicarbonate (2×50 mL). The organics were dried with anhydrous Na2SO4, decanted and concentrated. The residue was purified on a silica gel column (5×11 cm, 230-400 mesh) with (1:50) methanol:dichloromethane to give a white solid which was identified as product by comparing its 1H NMR to that of Example 1.

reactant | 5,6Dichloro-1-(2,3,5-tri-O-acetyl-beta-L-ribofuranosyl)-1H-benzimidazole | 2-25 mmol, 1.0 g | ClC1=CC2=C(N(C=N2)[C@@H]2[C@@H](OC(C)=O)[C@@H](OC(C)=O)[C@@H](O2)COC(C)=O)C=C1Cl | C18H18Cl2N2O7
reactant | N-bromosuccinimide | 4.94 mmol, 0.88 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-Bromo-5,6-dichloro-1-(2,3,5-tri-O-acetyl-beta-L-ribofuranosyl)-1H-benzimidazole | BrC1=NC2=C(N1[C@@H]1[C@@H](OC(C)=O)[C@@H](OC(C)=O)[C@@H](O1)COC(C)=O)C=C(C(=C2)Cl)Cl | C18H17BrCl2N2O7
